US07244746B2
Cyclopropylmethyl-[2-methyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazol-3-ylmethyl]-propyl-amine, scheme 3: (R)
A solution of Red-A1 (3.3 M in toluene, 0.70 mL, 2.33 mmol) was added dropwise to a solution of 2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide (0.177 g, 0.46 mmol) in toluene (3 mL) at 0° C. After stirring at room temperature for 24 h, the reaction mixture was cooled to 0° C. and I N sodium hydroxide (10 mL) was added dropwise. The above mixture was extracted with dichloromethane (40 mL), and the organic extracts were washed with water and dried over anhydrous sodium sulfate. Solvents were removed in vacuo to afford the title compound as a light yellow oil which solidified upon cooling (109 mg, 65% yield). The purity of the product was determined to be 91% by LC/MS. 1H NMR (CDC13, 300 MHz) δ 6.85 (s, 2H), 4.09-3.96 (m, 4H), 3.45 (s, 2H), 2.44 (t, J=7.1 Hz, 2H), 2.29 (d, J=6.5 Hz, 2H), 2.23 (s, 3H), 2.19 (s, 6H), 2.04 (s, 3H), 1.46 (quintet, J=7.3 Hz, 2H), 1.28-1.25 (m, 1H), 0.87 (t, J=7.2 Hz, 3H), 0.49-0.46 (m, 2H), 0.09-0.06 (m, 2H); 13C NMR (CDCl3, 75 MHz) δ 155.4, 137.1, 136.9, 136.0, 135.0, 129.7, 117.7, 58.5, 55.5, 53.8, 48.0, 42.4, 20.9, 20.3, 18.2, 13.3, 12.0, 8.9, 4.0. Mass spec.: 367.24 (MH+).

reactant | 2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide | 0.46 mmol, 0.177 g | C1(CC1)CN(C(=O)C1=C(N=C2N1CCN2C2=C(C=C(C=C2C)C)C)CC)CCC | C24H34N4O
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclopropylmethyl-[2-methyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazol-3-ylmethyl]-propyl-amine | 65% yield | C1(CC1)CN(CCC)CC1=C(N=C2N1CCN2C2=C(C=C(C=C2C)C)C)C | C23H34N4
